US06964965B2
Following the general procedure of Example 1 Step 3 and making non-critical variations but substituting 6-methoxy-2,3-dihydro-1H-inden-5-ylboronic acid (Preparation 2) with 3-methoxy-5,6,7,8-tetrahydronaphthalen-2-ylboronic acid (Preparation 1), and substituting 5-bromo-3,6-diethyl-N-(1-ethylpropyl)pyrazin-2-amine with (1R,2S)-1-[(5-bromo-3,6-diethylpyrazin-2-yl)amino]indan-2-ol (303 mg, 0.84 mmol) and gave 550 mg of a crude orange oil. The crude was purified on a Biotage MPLC column (90 g column, 18% ethyl acetate in heptane) to give 249 mg (67%) of (1R,2S)-1-{[3,6-diethyl-5-(3-methoxy-5,6,7,8-tetrahydronaphthalen-2-yl)pyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol as a glassy paste. Rf 0.20 (25% ethyl acetate in heptane). OAMS supporting ions at: ESI+444.3. HRMS (ESI) calcd for C28H33N3O2+H1 444.2651, found 444.2635.

reactant | 3-methoxy-5,6,7,8-tetrahydronaphthalen-2-ylboronic acid | COC=1C(=CC=2CCCCC2C1)B(O)O | C11H15BO3
reactant | (1R,2S)-1-[(5-bromo-3,6-diethylpyrazin-2-yl)amino]indan-2-ol | 0.84 mmol, 303 mg | BrC=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C17H20BrN3O
product | (1R,2S)-1-{[3,6-diethyl-5-(3-methoxy-5,6,7,8-tetrahydronaphthalen-2-yl)pyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol | 249 mg, 67% | C(C)C=1C(=NC(=C(N1)C1=CC=2CCCCC2C=C1OC)CC)N[C@H]1[C@H](CC2=CC=CC=C12)O | C28H33N3O2
